US07179823B1
Lithium aluminium hydride (0.98 g) was added to a solution of ethyl 1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazole-4-carboxylate (19.16 g) in tetrahydrofuran (75 ml) at 0° C., and the mixture was stirred at room temperature for 30 minutes. After water was added to the reaction mixture, the precipitate was removed by filtration and the filtrate was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The crystals obtained were collected by filtration to yield [1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazol-4-yl]methanol (17.25 g, yield: 96%). This was recrystallized from ethyl acetate-hexane. Melting point: 80–81° C.

reactant | Lithium aluminium hydride | 0.98 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazole-4-carboxylate | 19.16 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)C(=O)OCC)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C=2OC=CC2)C=C1)C | C38H34N4O9
reactant | water | O | H2O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | [1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazol-4-yl]methanol | 17.25 g, yield: 96% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)CO)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C=2OC=CC2)C=C1)C | C36H32N4O8
